US07794876B2
In 50 ml of toluene, 16.5 g (90 mmol) of pentafluorophenol and 8 ml (99 mmol) of pyridine were dissolved. To the solution, 12.9 g (94 mmol) of ethyl chloroglyoxylate were added dropwise under an ice bath for the reaction. After 1 hour stirring at room temperature, the reaction mixture was filtered and concentrated. The thus obtained crude product was refined by distillation to obtain 13.5 g of pentafluorophenyl ethyl oxalate (colorless liquid). The compound had a melting point of 70 to 71° C./2 mmHg.

reactant | pentafluorophenol | 90 mmol, 16.5 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | pyridine | 99 mmol, 8 ml | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloroglyoxylate | 94 mmol, 12.9 g | ClC(C(=O)OCC)=O | C4H5ClO3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | pentafluorophenyl ethyl oxalate | 13.5 g | C(C(=O)OCC)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F | C10H5F5O4
